US09290496B2
Step 5: Preparation of (+/−)-cis-tert-butyl 5-benzyl-3a-methoxyhexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate
To a solution of (+/−)-cis-2-benzyl-3a-methoxyoctahydropyrrolo[3,4-c]pyrrole (3.7 g, crude) in CH3CN (150 mL) was added Boc2O (7.63 g, 35 mmol), Et3N (7.07 g, 70 mmol) and DMAP (0.43 g, 3.5 mmol). The resulting mixture was stirred at 45° C. for three days. The mixture was concentrated and purified by column chromatography (from petroleum ether/EtOAc=20/1 to petroleum ether/EtOAc=2/1) to afford the title compound (1.5 g, 26% yield via two steps) as a red oil.

reactant | (+/−)-cis-2-benzyl-3a-methoxyoctahydropyrrolo[3,4-c]pyrrole | 3.7 g | C(C1=CC=CC=C1)N1C[C@@H]2CNC[C@@]2(C1)OC | C14H20N2O
reactant | Boc2O | 35 mmol, 7.63 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 70 mmol, 7.07 g | CCN(CC)CC | C6H15N
solvent | CH3CN | 150 mL | CC#N | C2H3N
catalyst | DMAP | 3.5 mmol, 0.43 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (+/−)-cis-tert-butyl 5-benzyl-3a-methoxyhexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 1.5 g, 26% yield | C(C1=CC=CC=C1)N1C[C@@H]2[C@](C1)(CN(C2)C(=O)OC(C)(C)C)OC | C19H28N2O3
